* 13 - PMOS SWEEP : Threshold voltage vth0 (p_vth0_p)
.include ptm22lp_param.lib
.param VDD = 0.95
.param WP  = 2u
.param LP  = 22n
.param ICRIT = 100n*WP/LP
M1  d  g  0  0  pmos  L={LP}  W={WP}
Vg  g  0  0
Vd  d  0  {-VDD}
.step param p_vth0_p -0.80 -0.55 0.03
.dc Vg 0 {-VDD} -0.005
.meas dc VT     FIND V(g)   WHEN Id(M1)={-ICRIT}
.meas dc V_1nA  FIND V(g)   WHEN Id(M1)=-1n
.meas dc V_10nA FIND V(g)   WHEN Id(M1)=-10n
.meas dc SS     PARAM (V_1nA-V_10nA)*1000
.meas dc IOFF   FIND Id(M1) AT=0
.meas dc ION    FIND Id(M1) AT={-VDD}
.meas dc ION_IOFF PARAM ION/IOFF
.end